US05552398
eq-Quinolizidin-2-ylmethyl-1-allylindole-3-carboxylate (E19)
eq-Quinolizidin-2-ylmethylindole-3-carboxylate (E9b) was alkylated with allyl iodide using the method in Example 18. The product was chromatographed on silica gel eluting initially with ether, then with ethyl acetate, to afford the title compound (E19) as a colourless oil. This was converted to its hydrochloride salt mp 190°-192° C. (acetone)

reactant | Quinolizidin-2-ylmethylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CNC2=CC=CC=C12 | C19H24N2O2
reactant | allyl iodide | C(C=C)I | C3H5I
product | Quinolizidin-2-ylmethyl-1-allylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CN(C2=CC=CC=C12)CC=C | C22H28N2O2
